US08445509B2
Production of benzyl {4-[(6-aminopyridin-3-yl)oxy]-2-fluorophenyl}carbamate
To a solution of benzyl {2-fluoro-4-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate (40 g, 104.3 mmol) in ethanol (1020 mL)/water (180 mL) were added reduced iron (29.1 g, 521.7 mmol) and calcium chloride (5.8 g, 52.2 mmol), and the mixture was heated under reflux for 8 hr. The reaction mixture was cooled to room temperature, filtered through celite, and washed with ethanol. The solvent was evaporated under reduced pressure, water (200 mL) was added to the residue, and the mixture was extracted with ethyl acetate (800 mL). The organic layer was washed with water and saturated brine in this order, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, hexane/ethyl acetate (=3/1) was added, and the precipitate was collected by filtration to give the title compound (28.2 g, 76%).

reactant | benzyl {2-fluoro-4-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 104.3 mmol, 40 g | FC1=C(C=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C19H14FN3O5
reactant | water | 180 mL | O | H2O
reactant | calcium chloride | 52.2 mmol, 5.8 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 1020 mL | C(C)O | C2H6O
product | benzyl {4-[(6-aminopyridin-3-yl)oxy]-2-fluorophenyl}carbamate | 28.2 g, 76% | NC1=CC=C(C=N1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F | C19H16FN3O3
